US04758585
A solution of 2-carboethoxy-cyclooctanone (92.2 g, 0.5 mole) in toluene (1.6 l) is treated with sodium iodide (1 g) and 60% sodium hydride in mineral oil (23.3 g, 0.58 mole). The mixture is heated at 110° C. The mixture is treated with ethyl α-bromoacetate (98.0 g, 0.58 mole) dropwise and the mixture is warmed to 65° C. for 18 hours. The mixture is cooled and water (500 ml) was added. The layers are separated and the aqueous is extracted with toluene (2×1 l). The extracts are dried (MgSO4) and filtered. The filtrate is concentrated at reduced pressure and distilled to yield pure 2-carboethoxy-2-carboethoxymethylcyclooctanone with a bp of 193°-195° C. at 16 mm.

reactant | 2-carboethoxy-cyclooctanone | 0.5 mole, 92.2 g | C(=O)(OCC)C1C(CCCCCC1)=O | C11H18O3
reactant | sodium iodide | 1 g | [I-].[Na+]
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl α-bromoacetate | 0.58 mole, 98.0 g | BrCC(=O)OCC | C4H7BrO2
solvent | toluene | 1.6 l | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 ml | O | H2O
product | 2-carboethoxy-2-carboethoxymethylcyclooctanone | C(=O)(OCC)C1(C(CCCCCC1)=O)CC(=O)OCC | C15H24O5
